US07135469B2
6-(4-Hydroxy-4-methyl-pentyl)-1-(4-methoxy-phenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one
3M methylmagnesium bromide (0.682 g, 2.05 mmol) was added to 4-[1-(4-methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-butyric acid ethyl ester (0.348 g, 0.818 mmol) dissolved in tetrahydrofuran (10 mL). The reaction was stirred at rt overnight. The reaction was quenched with 1N hydrochloric acid (50 mL), extracted with ethyl acetate (3×50 mL), washed with brine (1×50 mL), dried over MgSO4, concentrated, and purified by flash chromatography using 0–100% ethyl acetate/hexanes gradient as the eluent to afford 0.111 g (34%, based on recovered starting material): 1H NMR (CDCl3) δ 7.45 (d, j=9.2 Hz, 2H), 6.96 (d, j=8.7 Hz, 2H), 3.84 (s, 3H), 3.69 (t, j=6.8 Hz, 2H), 3.50(t, j=7.4 Hz, 2H), 3.00(t, j=6.8 Hz, 2H), 1.75–1.62 (m, 2H), 1.49–1.41 (m, 2H), 1.21 (s, 6H) ppm; Mass Spec (M+H)+ 412.3.

reactant | methylmagnesium bromide | 2.05 mmol, 3M, 0.682 g | C[Mg]Br
reactant | 4-[1-(4-methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-butyric acid ethyl ester | 0.818 mmol, 0.348 g | C(C)OC(CCCN1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(F)(F)F)=O)=O | C20H22F3N3O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-(4-Hydroxy-4-methyl-pentyl)-1-(4-methoxy-phenyl)-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | OC(CCCN1C(C2=C(CC1)C(=NN2C2=CC=C(C=C2)OC)C(F)(F)F)=O)(C)C | C20H24F3N3O3
